US06713490B2
The suspension of 3-(2-fluoro-6-nitrophenyl)propanoic acid (6.0 g, 28 mmol) and 10% Pd-C (300 mg) in MeOH was hydrogenated under H2 (4 atm) for 3 h. After filtration, the filtrate was concentrated in vacuo to afford 5-Fluoro-3,4-dihydroquinolin-2(1H)-one (4.6 g) as a slightly brown solid. This crude product was used in the next step without further purification.

reactant | 3-(2-fluoro-6-nitrophenyl)propanoic acid | 28 mmol, 6.0 g | FC1=C(C(=CC=C1)[N+](=O)[O-])CCC(=O)O | C9H8FNO4
solvent | MeOH | CO | CH4O
catalyst | Pd-C | 300 mg | [Pd] | Pd
product | 5-Fluoro-3,4-dihydroquinolin-2(1H)-one | 4.6 g | FC1=C2CCC(NC2=CC=C1)=O | C9H8FNO
